US05194442
Trans-5-(1,2-dihydro-2-oxo-pyrid-1-yl)-7-phenylsulfinyl-2,3,4,5-tetrahydro-1-benzoxepin-4 -ol
8.60 g (27.3 mmol) of tetrabutylammonium fluoride trihydrate are added to a mixture of 4.00 g (10.9 mmol) of trans-4-bromo-5-hydroxy-7-phenylsulfinyl-2,3,4,5-tetrahydro-1-benzoxepin and 6.40 g (38.3 mmol) of 2-trimethylsilyloxypyridine, and a mixture is subsequently stirred at 60° C. for 5 hours. The cooled syrupy liquid is poured onto ice-water and extracted several times with ethyl acetate. The combined ethyl acetate extracts are washed with water and saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated. The foamy residue is crystallized in butyl acetate. White crystals of melting point 181°-184° C. are obtained.

reactant | tetrabutylammonium fluoride trihydrate | 27.3 mmol, 8.60 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | trans-4-bromo-5-hydroxy-7-phenylsulfinyl-2,3,4,5-tetrahydro-1-benzoxepin | 10.9 mmol, 4.00 g | Br[C@@H]1CCOC2=C([C@H]1O)C=C(C=C2)S(=O)C2=CC=CC=C2 | C16H15BrO3S
reactant | 2-trimethylsilyloxypyridine | 38.3 mmol, 6.40 g | C[Si](OC1=NC=CC=C1)(C)C | C8H13NOSi
product | Trans-5-(1,2-dihydro-2-oxo-pyrid-1-yl)-7-phenylsulfinyl-2,3,4,5-tetrahydro-1-benzoxepin-4 -ol | O=C1N(C=CC=C1)[C@H]1[C@@H](CCOC2=C1C=C(C=C2)S(=O)C2=CC=CC=C2)O | C21H19NO4S
